US07550481B2
Grignard Addition A solution of Boc-3-amino-4-phenyl-2-butanone (0.5 g, 1.9 mmol) in 100 mL methylene chloride was cooled to −78° C. and treated with methyl magnesium bromide (1.39 mL of a 3.0M solution, 4.2 mmol). The reaction was warmed to ambient temperature and stirred for 14 hours. The reaction was charged with additional methyl magnesium bromide (1.39 mL of a 3.0 M solution, 4.2 mmol) and stirred at ambient temperature for 5 hours. The reaction was quenched with ammonium chloride solution and partitioned between water and ethyl acetate. The organics were washed with water (3×), brine, dried over sodium sulfate, filtered and evaporated in vactio. Purification by flash column chromatography (20-35% ethyl acetate/hexanes) gave Boc-3-amino-2-methyl-4-phenylbutan-2-ol as a white solid: 1H NMR (400 MHz, CDCl3) δ 7.25 (m, 5H), 4.52 (m, 1H), 3.69 (m, 1H), 3.09 (dd, J=14.1, 3.3 Hz, 1H), 2.61 (t, J=12.0 Hz, 1H), 2.39 (s, 1H), 1.30 (m, 15H). Step B: Deprotection

reactant | Boc-3-amino-4-phenyl-2-butanone | 1.9 mmol, 0.5 g | C(=O)(OC(C)(C)C)CC(C(CC1=CC=CC=C1)N)=O | C15H21NO3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Boc-3-amino-2-methyl-4-phenylbutan-2-ol | C(=O)(OC(C)(C)C)CC(C(CC1=CC=CC=C1)N)(O)C | C16H25NO3
